US05922727
1-[(Cyclopentyl)methyl]-5-isopropyl-6-(3,5-dimethyphenylthio)-2,4-pyrimidinedione
A mixture of 5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione (0.10 g, 0.40 mmol) and cyclopentyl toluenesulfonate (0.1 g, 0.4 mmol) in dimethylformamide (10 ml) were heated at 100° C. for overnight in the presence of sodium bicarbonate (41 mg, 0.48 mmol). After the concentration of dimethylformamide, the desirable product was obtained by the separation of the column chromatography to give a desirable product as a white solid (75 mg).

reactant | 5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | 0.40 mmol, 0.10 g | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | cyclopentyl toluenesulfonate | 0.4 mmol, 0.1 g | C=1(C(=CC=CC1)S(=O)(=O)OC1CCCC1)C | C12H16O3S
reactant | sodium bicarbonate | 0.48 mmol, 41 mg | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[(Cyclopentyl)methyl]-5-isopropyl-6-(3,5-dimethyphenylthio)-2,4-pyrimidinedione | 75 mg, Yield(%): 50.3 | C1(CCCC1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C21H28N2O2S
